US09290468B2
Step 1: 5-bromo-2,3,4-trifluorobenzoic acid
To a solution of 1-bromo-2,3,4-trifluorobenzene (13.64 g, 64.6 mmol) in THF (120 mL) was added lithium diisopropylamide (2.0 M in THF, 33.9 mL, 67.8 mmol) at −78° C. under nitrogen atmosphere. After stirring for 1 h at −78° C., the mixture was transferred to a bottle with dry ice. The mixture was stirred overnight at room temperature. The reaction was quenched with 10% aqueous HCl (300 mL) and extracted with ethyl acetate (200 mL×3). The combined organic extracts were washed with 5% sodium hydroxide (300 mL). The aqueous layer was acidized to pH 1 and extracted with ethyl acetate (200 mL×3). The combined organic extract was dried over Na2SO4, filtered and concentrated under reduced pressure to afford the desired product (white solid, 13.51 g, 82% yield). 1H NMR (400 MHz, CDCl3): δ 13.94 (s, 1H), 7.95 (m, 1H).

reactant | 1-bromo-2,3,4-trifluorobenzene | 64.6 mmol, 13.64 g | BrC1=C(C(=C(C=C1)F)F)F | C6H2BrF3
reactant | lithium diisopropylamide | 67.8 mmol, 2.0 M, 33.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 5-bromo-2,3,4-trifluorobenzoic acid | 13.51 g, 82% yield | BrC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2BrF3O2
